US08058299B2
To a solution of 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-piperazin-1-yl-phenyl)-amide hydrochloride (100 mg, 0.204 mmol) and triethylamine (57 μL, 0.408 mmol) in 5 mL THF at 0° C. was added n-propylisocyanate (21.6 mg, 0.255 mmol). The ice bath was removed and the reaction mixture was stirred at room temperature for 1 hr. The reaction mixture was diluted with ethyl acetate and washed with water. The organic layer was washed with saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate, filtered, and evaporated under reduced pressure. The residue was crystallized from ethyl acetate/hexane to yield 4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperazine-1-carboxylic acid propylamide (83 mg, 81%). ES-MS calcd for C25H26F3N5O3 (m/e) 501.51, obsd 502.1 (M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-piperazin-1-yl-phenyl)-amide hydrochloride | 0.204 mmol, 100 mg | Cl.N1(CCNCC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1
reactant | triethylamine | 0.408 mmol, 57 μL | C(C)N(CC)CC | C6H15N
reactant | n-propylisocyanate | 0.255 mmol, 21.6 mg | C(CC)N=C=O | C4H7NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperazine-1-carboxylic acid propylamide | 83 mg, 81% | C(CC)NC(=O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C25H26F3N5O3
